US07705053B2
Production of 3-N-(2,4-dimethoxyphenyl)-4-methoxyisophthalamide (Compound 1-3-35)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2,4-dimethoxyaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | 3-N-(2,4-dimethoxyphenyl)-4-methoxyisophthalamide | COC1=C(C=CC(=C1)OC)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C17H18N2O5
